US06747023B1
tert-Butyl [2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-6-yl)acetate
In N,N-dimethylformamide (50 ml) was dissolved 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (240 mg), followed by the addition of triethylamine (0.28 ml) and then tert-butyl bromoacetate (0.14 ml). The resulting mixture was stirred overnight at room temperature. After concentration of the reaction mixture under reduced pressure, ethyl acetate was added to the residue. The resulting mixture was washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (Φ3.0×12.0 cm, hexane:ethyl acetate 3:2), whereby the title compound (207 mg) was obtained as a colorless foam.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 240 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNCCC2N1
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl bromoacetate | 0.14 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-Butyl [2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-6-yl)acetate | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2N1)CC(=O)OC(C)(C)C | C27H31ClN4O5S2
